US08470841B2
52a N-[3-(4-Hydroxycyclohexyl)-1-methylpropyl]acetamide
N-[3-(4-Hydroxyphenyl)-1-methylpropyl]acetamide (1.0 g, 4.82 mmol) were dissolved in 100 ml of ethanol and hydrogenated in the presence of 5% rhodium on carbon (695 mg) at 100° C. and 100 bar hydrogen pressure for 18 h. The catalyst was filtered off and the filtrate was concentrated. Yield: 1.06 g of crude product, M+H+: 214.2.

reactant | N-[3-(4-Hydroxyphenyl)-1-methylpropyl]acetamide | 4.82 mmol, 1.0 g | OC1=CC=C(C=C1)CCC(C)NC(C)=O | C12H17NO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | rhodium on carbon | 695 mg | [Rh] | Rh
product | N-[3-(4-Hydroxycyclohexyl)-1-methylpropyl]acetamide | OC1CCC(CC1)CCC(C)NC(C)=O | C12H23NO2
